US07541372B2
2-(5-Methyl-3-phenyl-isoxazol-4-yl)-5-(4-trifluoromethyl-phenyl)-[1,3,4]oxadiazole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) was converted using 4-trifluoromethyl-benzoic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 40:40:20, 114 mg, 33%) which was obtained as a white solid. MS: m/e=372.0 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 4-trifluoromethyl-benzoic acid | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-5-(4-trifluoromethyl-phenyl)-[1,3,4]oxadiazole | 114 mg, 33% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1OC(=NN1)C1=CC=C(C=C1)C(F)(F)F | C19H12F3N3O2
